US07375113B2
4-{2-[4-(3-Hydroxypropoxy)phenyl]ethyl}-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine
4-{2-[4-(3-Benzyloxypropoxy)phenyl]ethyl}-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo-[3,4-b]pyridine (0.4 g) was dissolved in a mixed solvent of tetrahydrofuran (6 mL) and methanol (6 mL). To the solution was added 10% palladium-carbon powder (160 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (0.36 g).

reactant | 4-{2-[4-(3-Benzyloxypropoxy)phenyl]ethyl}-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo-[3,4-b]pyridine | 0.4 g | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C50H67N3O12
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
catalyst | palladium-carbon | 160 mg | [C].[Pd]
product | 4-{2-[4-(3-Hydroxypropoxy)phenyl]ethyl}-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine | 0.36 g | OCCCOC1=CC=C(C=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C43H61N3O12
